US04426387
1-Benzoyl-3-[1-(naphth-2-ylmethyl)piperid-4-yl]urea
4-Benzoylureidopiperidine (1.28 g, 0.005 m), 2-(bromomethyl)naphthalene (1.1 g, 0.005 m) and triethylamine (0.6 g, 0.006 m) in dimethylformamide (25 cm3) were stirred at room temperature for 23 hours. Water was added and the precipitated solid filtered off and washed well with water. The solid was suspended in warm ethanol, acidified with ethanolic HCl and then heated until all the solid had dissolved. The title compound crystallised and was collected as the hydrochloride salt, hemihydrate (1.6 g), m.p. 232°-234° C.

reactant | 4-Benzoylureidopiperidine | 1.28 g | C(C1=CC=CC=C1)(=O)NC(NC1CCNCC1)=O | C13H17N3O2
reactant | 2-(bromomethyl)naphthalene | 1.1 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
product | 1-Benzoyl-3-[1-(naphth-2-ylmethyl)piperid-4-yl]urea | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C24H25N3O2
